US08211412B2
Synthesis of 4,4-dimethyl-N-phenyl-4,5-dihydrothiazol-2-amine (Compound 1)
N-(1-hydroxy-2-methylpropan-2-yl)-N′-phenylthiourea (80.1 g, 0.36 mol) was dissolved in 2,400 mL of 35% HCl, and the resulting mixture was stirred while heating at 90° C. for 1.5 hours. After cooling, the mixture was neutralized with NaOH and extracted with diethyl ether. The extract was washed with saturated brine and then anhydrous sodium sulfate was added. The organic phase was distilled off under reduced pressure and the residue was washed three times with hexane. The crystals thus obtained were dried under reduced pressure at room temperature, and then recrystallized from methanol twice to give 22.4 g of the title compound (yield 18%).

reactant | N-(1-hydroxy-2-methylpropan-2-yl)-N′-phenylthiourea | 0.36 mol, 80.1 g | OCC(C)(C)NC(=S)NC1=CC=CC=C1 | C11H16N2OS
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 2,400 mL | Cl | ClH
product | 4,4-dimethyl-N-phenyl-4,5-dihydrothiazol-2-amine | 22.4 g, yield 18% | CC1(N=C(SC1)NC1=CC=CC=C1)C | C11H14N2S
